US04267176
To a solution of ethyl 2-(4-formamidopyrimidin-2-yl)-2-methoxyiminoacetic acid (syn isomer) (30.8 g) in ethanol (308 ml) was added 1 N alcoholic solution (550 ml) of potassium hydroxide and the mixture was stirred for 3.5 hours at ambient temperature. The reaction mixture was cooled in an ice bath and adjusted to pH3 with concentrated hydrochloric acid (53 ml). The resultant solid was filtered and washed with ethanol (60 ml), water (100 ml), acetone (100 ml) to give a crude product (28.8 g). This product (1 g) was recrystallized from water (10 ml) to give a purified product of 2-(4-aminopyrimidin-2-yl)-2-methoxyiminoacetic acid (dihydrate, syn isomer) (0.4 g), mp. 178°-183° C. (dec.).

reactant | ethyl 2-(4-formamidopyrimidin-2-yl)-2-methoxyiminoacetic acid | 30.8 g | C(C)OC(C(=NOC)C1=NC=CC(=N1)NC=O)=O | C10H12N4O4
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrochloric acid | 53 ml | Cl | ClH
solvent | ethanol | 308 ml | C(C)O | C2H6O
product | 2-(4-aminopyrimidin-2-yl)-2-methoxyiminoacetic acid | 0.4 g | NC1=NC(=NC=C1)C(C(=O)O)=NOC | C7H8N4O3
